US07687490B2
4-(3-Hydroxyazetidin-1-yl)carbonyl-2-((Z)-2-tritylthioethen-1-yl)thiazole
In the same manner as in step c) in Example 3, 1.169 g of the title compound was prepared from 1.300 g of 4-carboxy-2-((Z)-2-tritylthioethen-1-yl)thiazole and 1.028 g of 3-hydroxyazetidine tartrate.

reactant | 4-carboxy-2-((Z)-2-tritylthioethen-1-yl)thiazole | 1.300 g | C(=O)(O)C=1N=C(SC1)\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H19NO2S2
reactant | 3-hydroxyazetidine tartrate | 1.028 g | C(=O)(O)C(O)C(O)C(=O)O.OC1CNC1
product | 4-(3-Hydroxyazetidin-1-yl)carbonyl-2-((Z)-2-tritylthioethen-1-yl)thiazole | 1.169 g | OC1CN(C1)C(=O)C=1N=C(SC1)\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H24N2O2S2
